US07563787B2
N-(5-methyl-1H-pyrazol-3-yl)-6-(piperidin-1-yl)-2-styrylpyrimidin-4-amine
Example 67 was synthesized via Scheme 6 according to the general scheme provided above with the appropriate starting materials cinnamonitrile, 5-methyl-1H-pyrazole-3-amine, and piperidine. Structure of the target was confirmed by 1H-NMR. The 1H-NMR is attached.

reactant | cinnamonitrile | C(C=CC1=CC=CC=C1)#N | C9H7N
reactant | 5-methyl-1H-pyrazole-3-amine | CC1=CC(=NN1)N | C4H7N3
reactant | piperidine | N1CCCCC1 | C5H11N
product | N-(5-methyl-1H-pyrazol-3-yl)-6-(piperidin-1-yl)-2-styrylpyrimidin-4-amine | CC1=CC(=NN1)NC1=NC(=NC(=C1)N1CCCCC1)C=CC1=CC=CC=C1 | C21H24N6
